US07923573B2
A n-butyllithium-1.58M n-hexane solution (36.2 ml, 57.2 mmol) was added dropwise to a solution of diisopropylamine (8.02 ml, 57.2 mmol) in tetrahydrofuran (114 ml) under ice-cooling, and the mixture was further stirred for 30 minutes. After the reaction mixture was cooled to −50° C., a solution of 3-iodo-2-methylbenzoic acid (5.00 g, 19.1 mmol) in tetrahydrofuran (38 ml) was added thereto. After the mixture was stirred for 1 hour, iodomethane (9.51 ml, 153 mmol) was added thereto and the temperature of the mixture was raised from −50° C. to −20° C. over 1 hour. The reaction mixture was poured into 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was successively washed with 1N hydrochloric acid, water and a saturated aqueous NaCl solution and dried with anhydrous sodium sulfate. The solvent was removed under reduced pressure to give 3-iodo-2-ethylbenzoic acid (5.48 g, yield: 100%).

reactant | n-butyllithium | 57.2 mmol, 1.58M, 36.2 ml | C(CCC)[Li]
reactant | diisopropylamine | 57.2 mmol, 8.02 ml | C(C)(C)NC(C)C | C6H15N
reactant | 3-iodo-2-methylbenzoic acid | 19.1 mmol, 5.00 g | IC=1C(=C(C(=O)O)C=CC1)C | C8H7IO2
reactant | iodomethane | 153 mmol, 9.51 ml | IC | CH3I
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 114 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 38 ml | O1CCCC1 | C4H8O
product | 3-iodo-2-ethylbenzoic acid | 5.48 g, yield: 100% | IC=1C(=C(C(=O)O)C=CC1)CC | C9H9IO2
